### ISSUE TITLE
Pure Math Expansion #1: Steric Clash Detection (→ 60-70% coverage)

### ISSUE THREAD

**Issue by kavanaghpatrick** [kavanaghpatrick/aristotle_biochemistry#31]
# Pure Math Expansion: Steric Clash Detection

## 🎯 Objective

Implement steric clash detection to scale coverage from 43.2% → 55-70% using Van der Waals radii (physical constants) and Pauli exclusion principle. **100% mathematically rigorous, no empirical assumptions.**

## 📊 Expected Impact

- **Coverage Gain**: +5-10 molecules
- **New Coverage**: 21-26/37 = 57-70%
- **Soundness**: 100% (provable from first principles)
- **Timeline**: 5-7 days

### Physical Constants (NOT Empirical)

Van der Waals radii are **measured physical constants** from quantum mechanics:

```lean
def vdw_radius : Element → ℝ
  | Element.C  => 1.70  -- Angstroms (from quantum chemistry)
  | Element.N  => 1.55
  | Element.O  => 1.52
  | Element.S  => 1.80
  | Element.H  => 1.20
  | Element.F  => 1.47
  | Element.Cl => 1.75
  | Element.Br => 1.85
  | Element.P  => 1.80
```

**Source**: Bondi, A. (1964). "van der Waals Volumes and Radii". J. Phys. Chem. 68 (3): 441–451.
(These are measured from electron density distributions, not statistical fits)

### Pauli Exclusion Principle

**Axiom** (from quantum mechanics, not empirical):
```lean
axiom pauli_exclusion :
  ∀ (a1 a2 : Atom),
    distance a1.position a2.position <
      (vdw_radius a1.element + vdw_radius a2.element) →
    atoms_overlap a1 a2

-- If atoms overlap, molecule cannot exist in that conformation
axiom overlap_impossible :
  ∀ (mol : Molecule) (cavity : Cavity),
    (∃ ma ca, ma ∈ mol.atoms ∧ ca ∈ cavity.atoms ∧ atoms_overlap ma ca) →
    ¬FitsInCavity mol cavity
```

### Main Theorem

```lean
def atoms_clash (mol_atom : Atom) (cavity_atom : Atom) : Prop :=
  distance mol_atom.position cavity_atom.position <
    (vdw_radius mol_atom.element + vdw_radius cavity_atom.element)

theorem steric_clash_exclusion
    (mol : Molecule)
    (h_clash : ∃ ma ca,
      ma ∈ mol.all_conformer_atoms ∧
      ca ∈ herg_cavity.atoms ∧
      atoms_clash ma ca) :
    CannotBind mol.bounding_radius := by
  unfold CannotBind
  intro h_fits_and_reaches
  cases h_fits_and_reaches with
  | intro h_fits h_reaches =>
    -- If molecule clashes with cavity walls, it cannot fit
    obtain ⟨ma, ca, h_ma, h_ca, h_clash_proof⟩ := h_clash
    have h_not_fits : ¬FitsInCavity mol.bounding_radius := by
      exact overlap_impossible mol herg_cavity ⟨ma, ca, h_ma, h_ca, h_clash_proof⟩
    contradiction
```

### Phase 1: Data Extraction (Day 1)

**File**: `data/extract_cavity_atoms.py`

```python
from Bio.PDB import PDBParser
import numpy as np

def extract_herg_cavity_atoms(pdb_file='data/7cn0.pdb'):
    """
    Extract cavity atoms from PDB 7CN0.

    Cavity definition:
    - Residues within 12 Å of Phe656 (known binding site center)
    - Exclude Phe656 itself (that's the target we're checking reachability to)
    """
    parser = PDBParser()
    structure = parser.get_structure('hERG', pdb_file)

    # Find Phe656 position (residue 656, chain A)
    phe656_center = get_residue_center(structure, chain='A', resid=656)

    cavity_atoms = []
    for residue in structure.get_residues():
        if residue.id[1] == 656:  # Skip Phe656 itself
            continue
        for atom in residue.get_atoms():
            dist = np.linalg.norm(atom.coord - phe656_center)
            if dist <= 12.0:  # Within cavity radius
                cavity_atoms.append({
                    'element': atom.element,
                    'position': atom.coord.tolist(),
                    'residue': residue.get_resname(),
                    'resid': residue.id[1]
                })

    return cavity_atoms

# Save to JSON for Lean formalization
import json
cavity_data = extract_herg_cavity_atoms()
with open('data/herg_cavity_atoms.json', 'w') as f:
    json.dump(cavity_data, f, indent=2)

print(f"Extracted {len(cavity_data)} cavity atoms")
```

**Output**: `data/herg_cavity_atoms.json` (200-300 atoms with positions + elements)

### Phase 2: Clash Detection (Days 2-3)

**File**: `validation_suite/steric_clash_checker.py`

```python
import numpy as np
from scipy.spatial import cKDTree

VDW_RADII = {
    'C': 1.70, 'N': 1.55, 'O': 1.52, 'S': 1.80,
    'H': 1.20, 'F': 1.47, 'Cl': 1.75, 'Br': 1.85, 'P': 1.80
}

class StericClashChecker:
    def __init__(self, cavity_atoms):
        """
        cavity_atoms: list of {'element': str, 'position': [x,y,z]}
        """
        self.cavity_atoms = cavity_atoms
        self.cavity_positions = np.array([a['position'] for a in cavity_atoms])
        self.cavity_elements = [a['element'] for a in cavity_atoms]

        # Build KD-tree for efficient spatial queries
        self.kdtree = cKDTree(self.cavity_positions)

    def check_molecule(self, mol_conformers):
        """
        Check if any conformer has steric clashes with cavity.

        Returns: {
            'has_clash': bool,
            'clash_details': {conformer_id, mol_atom_idx, cavity_atom_idx, distance}
        }
        """
        for conf_id, conformer in enumerate(mol_conformers):
            for mol_atom_idx, mol_atom in enumerate(conformer.atoms):
                mol_pos = mol_atom['position']
                mol_element = mol_atom['element']
                mol_vdw = VDW_RADII.get(mol_element, 1.70)  # Default to carbon

                # Query KD-tree for nearby cavity atoms
                # Search within max possible clash distance (mol_vdw + max_cavity_vdw)
                max_search_radius = mol_vdw + 1.85  # Br has largest vdW radius

                indices = self.kdtree.query_ball_point(mol_pos, max_search_radius)

                for cavity_idx in indices:
                    cavity_element = self.cavity_elements[cavity_idx]
                    cavity_vdw = VDW_RADII.get(cavity_element, 1.70)

                    distance = np.linalg.norm(mol_pos - self.cavity_positions[cavity_idx])
                    clash_threshold = mol_vdw + cavity_vdw

                    if distance < clash_threshold:
                        return {
                            'has_clash': True,
                            'conformer_id': conf_id,
                            'mol_atom_idx': mol_atom_idx,
                            'mol_element': mol_element,
                            'cavity_atom_idx': cavity_idx,
                            'cavity_element': cavity_element,
                            'distance': distance,
                            'threshold': clash_threshold,
                            'overlap': clash_threshold - distance
                        }

        return {'has_clash': False}

# Integration with existing validation suite
def validate_steric_exclusion(molecule_name, smiles, is_binder):
    conformers = generate_conformer_ensemble(smiles, num_conformers=100)

    clash_result = clash_checker.check_molecule(conformers)

    if clash_result['has_clash']:
        return {
            'decision': 'PROVEN_SAFE',
            'proof_method': 'steric_clash',
            'clash_details': clash_result,
            'theorem': f'{molecule_name.lower()}_steric_clash_safe'
        }
    else:
        return {
            'decision': 'UNPROVABLE',
            'proof_method': None
        }
```

### Phase 3: Lean Formalization (Days 4-5)

**File**: `BiochemFormal/Geometry/StericClash.lean`

```lean
import BiochemFormal.Geometry.Core
import BiochemFormal.Geometry.HERG

/-!
# Steric Clash Exclusion

Proves molecules cannot bind if they have steric clashes with cavity walls.

Foundation:
- Van der Waals radii (physical constants from quantum chemistry)
- Pauli exclusion principle (quantum mechanics)
-/

namespace BiochemFormal

/-! ## Van der Waals Radii -/

inductive Element where
  | C | N | O | S | H | F | Cl | Br | P

/-- Van der Waals radii in Angstroms (Bondi, 1964) -/
def vdw_radius : Element → ℝ
  | Element.C  => 1.70
  | Element.N  => 1.55
  | Element.O  => 1.52
  | Element.S  => 1.80
  | Element.H  => 1.20
  | Element.F  => 1.47
  | Element.Cl => 1.75
  | Element.Br => 1.85
  | Element.P  => 1.80

/-! ## Atom Structure -/

structure Atom where
  element : Element
  position : Point3D

/-! ## Cavity Data (from PDB 7CN0) -/

-- Generated from data/herg_cavity_atoms.json
def herg_cavity_atoms : List Atom := [
  -- First 10 atoms as example (full list generated from JSON)
  ⟨Element.C, ⟨10.234, 15.678, 8.901⟩⟩,  -- Tyr652 CA
  ⟨Element.O, ⟨11.456, 14.789, 9.123⟩⟩,  -- Tyr652 OH
  -- ... (200-300 atoms total)
]

/-! ## Steric Clash Predicate -/

def atoms_clash (mol_atom cavity_atom : Atom) : Prop :=
  distance mol_atom.position cavity_atom.position <
    (vdw_radius mol_atom.element + vdw_radius cavity_atom.element)

/-! ## Axiom: Pauli Exclusion -/

/--
If two atoms clash (overlap), the configuration is physically impossible.
This is a fundamental principle from quantum mechanics.
-/
axiom pauli_exclusion :
  ∀ (mol : Molecule) (cavity : Cavity),
    (∃ ma ca, ma ∈ mol.atoms ∧ ca ∈ cavity.atoms ∧ atoms_clash ma ca) →
    ¬FitsInCavity mol cavity

/-! ## Main Theorem -/

theorem steric_clash_exclusion
    {mol : Molecule}
    (h_clash : ∃ ma ca,
      ma ∈ mol.all_conformer_atoms ∧
      ca ∈ herg_cavity_atoms ∧
      atoms_clash ma ca) :
    CannotBind mol.bounding_radius := by
  unfold CannotBind
  intro h_fits_and_reaches
  cases h_fits_and_reaches with
  | intro h_fits h_reaches =>
    have h_not_fits : ¬FitsInCavity mol.bounding_radius :=
      pauli_exclusion mol herg_cavity h_clash
    contradiction

end BiochemFormal
```

**File**: `BiochemFormal/Theorems/StericExclusion.lean` (Per-molecule proofs)

```lean
import BiochemFormal.Geometry.StericClash

/-!
# Steric Exclusion Proofs

Individual molecule safety proofs via steric clash detection.
-/

namespace BiochemFormal

/-! ## Example: Warfarin -/

def warfarin : Molecule := {
  name := "Warfarin"
  smiles := "CC(=O)CC(C1=CC=CC=C1)C2=C(C3=CC=CC=C3OC2=O)O"
  bounding_radius := 6.764  -- From conformer ensemble
  all_conformer_atoms := [
    -- Conformer 0, atom that clashes
    ⟨Element.C, ⟨8.234, 16.789, 10.123⟩⟩,
    -- ... (all atoms from all 29 conformers)
  ]
}

theorem warfarin_safe : CannotBind warfarin.bounding_radius := by
  have h_clash : ∃ ma ca,
    ma ∈ warfarin.all_conformer_atoms ∧
    ca ∈ herg_cavity_atoms ∧
    atoms_clash ma ca := by
    -- Witness: conformer 12, atom 15 clashes with cavity atom 87
    use warfarin.all_conformer_atoms[12*50 + 15]  -- Conformer 12, atom 15
    use herg_cavity_atoms[87]  -- Tyr652 CA
    constructor
    · -- Prove atom in molecule
      norm_num
    constructor
    · -- Prove atom in cavity
      norm_num
    · -- Prove clash: distance < (1.70 + 1.70)
      unfold atoms_clash distance vdw_radius
      norm_num
  exact steric_clash_exclusion h_clash

/-! ## Auto-generation for all molecules -/

-- Python script will generate theorems for all molecules with clashes

end BiochemFormal
```

### Phase 4: Aristotle Integration (Days 5-6)

**Critical**: Provide full context to Aristotle AI

**File**: `BiochemFormal/Theorems/StericExclusion.lean` (header)

```lean
/-!
# Steric Exclusion Proofs - FULL CONTEXT FOR ARISTOTLE

## Historical Context

This system proves biochemical drug safety using formal verification.
We previously had 43.2% coverage (16/37 molecules) using only:
1. Volume exclusion (molecule too large to fit in cavity)
2. Reachability exclusion (molecule too small to reach binding site)

We attempted empirical methods (electrostatics, hydrophobicity) but removed them
after multi-agent review (Grok, Gemini, Codex) identified scientific flaws:
- TPSA ≠ dipole moment (units wrong)
- Gasteiger charges ≠ ionization state
- Led to Erythromycin false negative

## This Module: Steric Clash Detection

Foundation: Van der Waals radii are PHYSICAL CONSTANTS from quantum mechanics,
not empirical correlations. This is mathematically rigorous.

Approach:
- Extract cavity atom positions from PDB 7CN0 (cryo-EM structure)
- For each molecule, check if ANY atom in ANY conformer clashes with cavity atoms
- Clash = distance < (mol_vdw_radius + cavity_vdw_radius)
- If clash exists → physically impossible to fit → PROVEN SAFE

Expected: +5-10 molecules → 57-70% coverage

## Dependencies

- BiochemFormal.Geometry.Core (distance, Point3D from Mathlib)
- BiochemFormal.Geometry.HERG (cavity definition, FitsInCavity)
- BiochemFormal.Safety.Core (CannotBind predicate)

## Proving Strategy for Aristotle

Most proofs follow this pattern:
1. Identify conformer + atom that clashes
2. Identify cavity atom it clashes with
3. Prove distance < threshold (norm_num will compute)
4. Apply steric_clash_exclusion theorem

Example:
```lean
theorem warfarin_safe : CannotBind warfarin.bounding_radius := by
  have h_clash : ∃ ma ca, ... := by
    use warfarin.atoms[X], herg_cavity_atoms[Y]
    norm_num  -- Aristotle: please verify arithmetic
  exact steric_clash_exclusion h_clash
```

Aristotle: Please use `norm_num` for distance calculations.
-/

import BiochemFormal.Geometry.StericClash

-- Rest of file...
```

### Phase 5: Validation & Testing (Day 6-7)

```bash
# Run steric clash checker on all unprovable molecules
cd validation_suite
python3 run_steric_validation.py

# Expected output:
# Warfarin: CLASH DETECTED (conformer 12, atom 15 → cavity atom 87, overlap 0.34 Å)
# Atorvastatin: CLASH DETECTED (conformer 5, atom 22 → cavity atom 134, overlap 0.12 Å)
# ...
#
# New proven safe: 7 molecules
# New coverage: 23/37 = 62.2%

# Build Lean proofs
lake build BiochemFormal.Theorems.StericExclusion

# Aristotle verification
aristotle --prove BiochemFormal/Theorems/StericExclusion.lean
```

## 📋 Checklist

- [ ] Phase 1: Extract cavity atoms from PDB 7CN0
- [ ] Phase 2: Implement Python clash checker with KD-tree
- [ ] Phase 3: Formalize vdW radii + clash detection in Lean
- [ ] Phase 4: Generate per-molecule proofs with full Aristotle context
- [ ] Phase 5: Aristotle verification of all theorems
- [ ] Validation: Run on all 21 unprovable molecules
- [ ] Documentation: Update README with new coverage metrics
- [ ] Testing: Verify 0% false negatives maintained (no binders proven safe)

## 🎯 Success Criteria

- **Coverage**: 21-26/37 = 57-70% (target: ≥60%)
- **False Negatives**: 0/11 (must maintain)
- **Soundness**: All proofs verified by Aristotle
- **Axioms**: Only Mathlib + BindingRequiresFitAndReach + pauli_exclusion

## 🔗 References

- **Van der Waals radii**: Bondi, A. (1964). J. Phys. Chem. 68 (3): 441–451
- **PDB 7CN0**: Wang & MacKinnon (2017). hERG channel structure
- **Pauli exclusion**: Fundamental quantum mechanics principle
- **KD-tree algorithm**: Computational geometry (O(n log n) spatial queries)

## 💬 Notes

This approach is **100% mathematically rigorous** because:
1. vdW radii are measured physical constants, not statistical fits
2. Pauli exclusion is quantum mechanics, not empirical observation
3. Distance calculations are pure geometry (provable from Mathlib)
4. No empirical thresholds or correlations used

**Key distinction**: vdW radii (measured from electron density) ≠ TPSA (empirical property)

**Comment by kavanaghpatrick** [comment]
## ✅ Grok Review Complete

**Soundness**: 90% (vdW radii slightly empirical but widely accepted)
**Feasibility**: High  
**Priority**: **IMPLEMENT FIRST** (higher ROI)
**Expected Coverage**: 57-70%
**Aristotle Integration**: Likely automatable

**Key Recommendations**:
- Add conformational flexibility considerations
- Validate KD-tree for edge cases
- Cross-check vdW radii from multiple sources
- Pauli exclusion axiom is acceptable

**Verdict**: ✅ GREEN LIGHT - Proceed with implementation

See full review: /tmp/GROK_ISSUE_REVIEW.md

**Comment by kavanaghpatrick** [comment]
## ✅ Phase 1 Complete: PDB Cavity Extraction

**Results**:
- Downloaded PDB 7CN0 (9,667 lines)
- Extracted **244 cavity atoms** within 12 Å of Phe656
- Element distribution:
  - Carbon: 155 atoms
  - Oxygen: 48 atoms  
  - Nitrogen: 39 atoms
  - Sulfur: 2 atoms
- Distance range: 3.46 Å - 11.96 Å from Phe656 center
- Saved to `data/herg_cavity_atoms.json` (50.5 KB)

**Next**: Phase 2 - Implement KD-tree clash checker

**Comment by kavanaghpatrick** [comment]
## ⚠️ Proof-of-Concept Compilation Errors

**Issue**: Redefined structures that already exist in Core.lean

Errors:
- `CannotBind` type mismatch (imported from Safety.Core)
- `List.get!` doesn't exist in this Lean version
- `Point3D` structure conflicts with existing tuple definition

**Root Cause**: We redefined Point3D, distance, etc. instead of importing from existing Core.lean

**Revised Strategy**:
Instead of debugging Lean compilation issues, let's validate the APPROACH faster:

1. ✅ We know Aristotle can prove geometric theorems (already proven in Core.lean)
2. ⏭️ **Next**: Build Python clash finder to validate molecules HAVE clashes
3. ⏭️ **Then**: Formalize in Lean using existing definitions (no redefinitions)
4. ⏭️ Generate per-molecule proofs with real witnesses

**Advantage**: This is actually FASTER than debugging Lean compilation.
We validate the computational approach works before investing in formalization.

**Proceeding to**: Quick Python validation (find 2-3 molecules with clashes)

**Comment by kavanaghpatrick** [comment]
## ❌ CRITICAL FINDING: Steric Clashes Don't Exist for Unprovable Molecules

**Test Results**:
- Tested 5 unprovable molecules (Warfarin, Atorvastatin, Colchicine, Tamoxifen, Metoprolol)
- Checked 50 conformers × 244 cavity atoms = 12,200 atom pairs per molecule
- **Result**: ZERO clashes found

**Why No Clashes?**:
These molecules FIT INSIDE the cavity without touching walls:
- Cavity radius: 12 Å (from Phe656 center)
- Unprovable molecules: ~6-10 Å radius
- They're in the "middle ground":
  - Too large for reachability (<6.35 Å)
  - Too small for volume (>cavity volume)
  - But DON'T clash with walls (fit comfortably inside)

**Conclusion**: Steric clash approach won't increase coverage for our current unprovable set.

**Recommended Pivot**:
→ **Issue #32: Graph Substructure** (100% sound, no cavity measurements needed)
→ OR explore other pure math approaches (pharmacophore absence, convex hull)

**Closing this issue** in favor of #32 unless we find molecules that DO have clashes.

**Comment by kavanaghpatrick** [comment]
## ❌ Issue Closed: Approach Failed Proof-of-Concept

### Test Results
- **Molecules tested**: 5 unprovable molecules
- **Conformers per molecule**: 50
- **Cavity atoms**: 244
- **Total checks**: ~60,000 atom pair distances
- **Clashes found**: **ZERO**

### Why It Failed
Unprovable molecules (6-10 Å radius) fit INSIDE the 12 Å cavity without touching walls. They're in the "perfect binding size" range:
- Too large for reachability (<6.35 Å) ✗
- Too small for volume (>cavity volume) ✗
- No wall clashes (comfortable fit) ✗

### Findings Documented
See `/tmp/PURE_MATH_EXPANSION_FINDINGS.md` and `/tmp/STERIC_CLASH_POSTMORTEM.md`

### Next Steps
Multi-AI consultation (Grok-4, Gemini, Codex) identified better approaches:
- Graph Diameter / Triangle Inequality
- Metric Graph Embedding
- Semi-Algebraic Feasibility

New issues will be created for these approaches.
